US04123532
Tablets Containing 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-2-carboxylic acid, n-propyl ester
2.0 g (0.0126 mole) of 3-diazo-oxindole and 1.7 g (1.2 equivalents) of n-propyl propiolate are dissolved in xylene (85 ml) and refluxed under nitrogen for 24 hours. The dark reddish-brown precipitates are filtered off, washed with ether and dried. Yield: 1.5 g, 43.86% yield.

reactant | 3-diazo-oxindole | 0.0126 mole, 2.0 g | [N+](=[N-])=C1C(NC2=CC=CC=C12)=O | C8H5N3O
reactant | n-propyl propiolate | 1.7 g, 1.2 equivalents | C(C#C)(=O)OCCC | C6H8O2
solvent | xylene | 85 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-2-carboxylic acid, n-propyl ester | 43.86% yield | O=C1NC=2C=CC=CC2C=2N1N=C(C2)C(=O)OCCC | C14H13N3O3
